* source C:\Users\E151509\Documents\CoolSpice\MyNetlists\dlatch_start.net
.include "../Models/MOSIS.txt"
 
*********** define parameters *********** 
.param vdd = 3.3 
.param Lmin = 0.35u 
 
 
***************** define stimulii ********************* 
vdd vdd 0 vdd 

**** CLOCK 
Va clk 0 pwl(0n 0 1n 0 1.1n 3.3 2n 3.3 2.1n 0 3n 0 3.1n 3.3 4n 3.3 4.1n 0 5n 0 5.1n 3.3 6n 3.3 6.1n 0)
 

**** data input
Vb data 0 pwl(0n 0V 1.93n 0V 2.03n 3.3V 2.09n 3.3V 2.19n 0V 2.75n 0V 2.85n 3.3V 3.89n 3.3V 3.99n 0V 4.03n 0V 4.13n 3.3V 4.75n 3.3V 4.85n 0V)

***** define global nodes for use in subcircuits ***** 
.global vdd 

********* define subcircuits ****************** 
.subckt ptran gate drain source Wp=1.0 
Mp1 drain gate source vdd tsmc0p35pmos W=Wp L=Lmin 
+ PD='Wp + 6*Lmin' PS='Wp + 6*Lmin' 
+ AD='3*Wp*Lmin' AS='3*Wp*Lmin' 
.ends 

.subckt ntran gate drain source Wn=1.0 
Mn1 drain gate source 0 tsmc0p35nmos W=Wn L=Lmin 
+ PD='Wn + 6*Lmin' PS='Wn + 6*Lmin' 
+ AD='3*Wn*Lmin' AS='3*Wn*Lmin' 
.ends 

********* define main circuit ****************** 
Xpmos0 clk clkb vdd ptran Wp=4.0u
Xnmos0 clk clkb 0   ntran Wn=2.0u

Xpmos1 clkb data n1 ptran Wp=4.0u
Xnmos1 clk  data n1 ntran Wn=2.0u

Xpmos2 n1 n2 vdd ptran Wp=4.0u
Xnmos2 n1 n2 0   ntran Wn=2.0u

Xpmos3 n2 q vdd ptran Wp=4.0u
Xnmos3 n2 q 0   ntran Wn=2.0u

Xpmos4 n2 n3 vdd ptran Wp=4.0u
Xnmos4 n2 n3 0   ntran Wn=2.0u

Xpmos5 clk  n3 n1 ptran Wp=4.0u
Xnmos5 clkb n3 n1 ntran Wn=2.0u

* Load capacitance 
* Cl q 0 0.1p 


****** Anlysis Options ********** 
.tran 1p 6n  

.meas tran tplh_setup trig v(data) td=1.2ns val='vdd/2' cross=1 
 + targ v(clk) td=1.4ns val='vdd/2' cross=1 
.meas tran tphl_setup trig v(data) td=3.2ns val='vdd/2' cross=1 
 + targ v(clk) td=3.4ns val='vdd/2' cross=1 
.meas tran tplh_setup trig v(clk) td=1.4ns val='vdd/2' cross=1 
 + targ v(data) td=1.2ns val='vdd/2' cross=2 
 
 .meas tran tplh_setup trig v(clk) td=.5ns val='vdd/2' cross=4 
 + targ v(data) td=.5ns val='vdd/2' cross=5

.end 

.control
run 
set color0 = white
set xbrushwidth = 5  
plot v(clk) v(data) v(q) xdelta 6n ydelta 1.65
.endc
